US04327089
6.8 g (0.08 mol) of an O-methylhydroxylamine hydrochloric acid salt was dissolved in 20 ml of water, and 22.4 g (0.16 mole) of potassium carbonate dissolved in 20 ml of water was dropwise added thereto at 0° C. 14.2 g (0.08 mol) of a picolinyl chloride hydrochloric acid salt was further added thereto, and the resulting solution was stirred at 0° to 10° C. for 4 hours. The reaction product thus obtained was extracted with methylene chloride several times. The organic phase was dried over anhydrous sodium sulfate to obtain 8.4 g of N-methoxypyridine-2-carboximidic acid.

reactant | O-methylhydroxylamine hydrochloric acid salt | 0.08 mol, 6.8 g | Cl.CON
reactant | potassium carbonate | 0.16 mole, 22.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | picolinyl chloride hydrochloric acid salt | 0.08 mol, 14.2 g | Cl.N1=C(C=CC=C1)CCl
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | N-methoxypyridine-2-carboximidic acid | 8.4 g | CON=C(O)C1=NC=CC=C1 | C7H8N2O2
